US06174874B1
2,2-Di{4-[(di-tert-butoxyphosphoryl)(difluoro)methyl]benzyl}malonic Acid, Benzyl Methyl Ester
To a solution of benzyl methyl malonate (0.2 g) in DMF (8 mL), was added sequentially NaH (0.08 g, 60% in mineral oil), di(tert-butyl) [[4-(bromomethyl)phenyl](difluoro)methyl]phosphonate (0.83 g), and n-Bu4NI (0.08 g). The reaction mixture was stirred at room temperature for 2.5 h, then quenched with 20 mL of saturated aqueous NH4Cl solution and extracted with 50 mL of 1:1 hexane/EtOAc. The extract was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography eluted with 2:1 hexane/EtOAc. First eluted was 1-benzyl 3-methyl 2-{4-[(di-tert-butoxyphosphoryl)(difluoro)methyl]benzyl}malonate (0.2 g), followed by the title compound (0.3 g) as an oil.

reactant | benzyl methyl malonate | 0.2 g | C(CC(=O)OC)(=O)OCC1=CC=CC=C1 | C11H12O4
reactant | NaH | 0.08 g | [H-].[Na+]
reactant | di(tert-butyl) [[4-(bromomethyl)phenyl](difluoro)methyl]phosphonate | 0.83 g | BrCC1=CC=C(C=C1)C(F)(F)P(OC(C)(C)C)(OC(C)(C)C)=O | C16H24BrF2O3P
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
catalyst | n-Bu4NI | 0.08 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
product | 2,2-Di{4-[(di-tert-butoxyphosphoryl)(difluoro)methyl]benzyl}malonic Acid, Benzyl Methyl Ester | C(C)(C)(C)OP(=O)(OC(C)(C)C)C(C1=CC=C(CC(C(=O)OCC2=CC=CC=C2)(C(=O)OC)CC2=CC=C(C=C2)C(F)(F)P(=O)(OC(C)(C)C)OC(C)(C)C)C=C1)(F)F | C43H58F4O10P2
